US20010036653A1
Preparation of (3R,4R,5S)-4-acetylamino-5-tert.-butoxycarbonylamino-3-(1-ethyl-propoxy)-cyclohex-1-ene carboxylic acid ethyl ester
A solution of 1.59 g (3R,4R,5S)-4-azido-5-tert.-butoxycarbonylamino-3-(1-ethyl-propoxy)-cyclohex-1-enecarboxylic acid ethyl ester (4 mmol) and 0.36 ml water (20 mmol) in 5 ml tetrahydrofuran was cooled to 0° C. 1.12 ml triethylamine (8 mmol) and 0.38 ml acetic anhydride were added and stirring at 0° C. was continued for 15 min. 1.14 ml tri-n-butyl phosphine (4.4 mmol) were added over 5 min. and the yellowish solution was stirred for 30 min. at 0° C. and then for 1 h at room temperature. After the addition of 5.58 ml triethylamine (40 mmol) 1.89 ml acetic anhydride (20 mmol) were added slowly under ice cooling and stirring at room temperature was continued for 1 h. The reaction mixture was diluted with 30 ml ethyl acetate and washed sequentially with 25 ml 2N HCl, 10 ml 10% Na2CO3 and 20 ml 10% brine. The aqueous layers were extracted sequentially with 20 ml ethyl acetate. The combined organic layers were dried (Na2SO4) and the solvent was removed by rotary evaporation (30° C./210 mbar) affording 2.89 g crude, which was purified by chromatography on SiO2 (100 g) with hexane ethyl acetate 1.4:1 (100 ml fractions). Rotary evaporation (30° C./≧10 mbar) gave 1.39 g (84%) of the title product as a colorless, crystalline residue, m.p. 153.5-154.5° C. [CC]D =-89.7° (CHCl3; c=1)

reactant | (3R,4R,5S)-4-azido-5-tert.-butoxycarbonylamino-3-(1-ethyl-propoxy)-cyclohex-1-enecarboxylic acid ethyl ester | 4 mmol, 1.59 g | C(C)OC(=O)C1=C[C@H]([C@@H]([C@H](C1)NC(=O)OC(C)(C)C)N=[N+]=[N-])OC(CC)CC | C19H32N4O5
reactant | water | 20 mmol, 0.36 ml | O | H2O
reactant | triethylamine | 8 mmol, 1.12 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.38 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | tri-n-butyl phosphine | 4.4 mmol, 1.14 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | triethylamine | 40 mmol, 5.58 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (3R,4R,5S)-4-acetylamino-5-tert.-butoxycarbonylamino-3-(1-ethyl-propoxy)-cyclohex-1-ene carboxylic acid ethyl ester | 1.39 g, 84% | C(C)OC(=O)C1=C[C@H]([C@@H]([C@H](C1)NC(=O)OC(C)(C)C)NC(C)=O)OC(CC)CC | C21H36N2O6
